US07485283B2
Synthesis of 2-(4-benzyloxy-3,5-dimethoxy-phenyl)-ethanol
(4-Benzyloxy-3,5-dimethoxy-phenyl)-acetic acid methyl ester (3.57 g, 11.3 mmol) was dissolved in THF (113 mL). A solution of LAH (1M in THF, 11.3 mL) was added dropwise to the stirring reaction mixture. After completion of addition the reaction continued to stir at room temperature overnight. The next day, the reaction was quenched with water. The aqueous layer was extracted with ethyl acetate. All of the combined organic layers were dried over sodium sulfate, filtered, and concentrated to yield a crude material (2.89 g, 89%), which was used in the next step without any additional purification.

reactant | (4-Benzyloxy-3,5-dimethoxy-phenyl)-acetic acid methyl ester | 11.3 mmol, 3.57 g | COC(CC1=CC(=C(C(=C1)OC)OCC1=CC=CC=C1)OC)=O | C18H20O5
reactant | LAH | 1M, 11.3 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 113 mL | C1CCOC1 | C4H8O
product | 2-(4-benzyloxy-3,5-dimethoxy-phenyl)-ethanol | 2.89 g, 89% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1OC)CCO)OC | C17H20O4
